US08937078B2
Step D: Preparation of 1-(6-nitro-4-oxo-3,4-dihydro-quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid ethyl ester.
Ethyl pyrazole-4-carboxylate (1.83 g, 13.1 mmol) was added to a suspension of 2-chloro-6-nitro-3H-quinazolin-4-one (2.95 g, 13.1 mmol) in xylenes (52 mL). The reaction mixture was heated to 130° C. for 1 h, allowed to cool, and stirred at room temperature for 18 h. The precipitate was collected and rinsed with ether (20 mL) to yield the titled compound (4.22 g, 98%). MS (ESI/Cl): mass calcd. for C14H11N5O5, 329.1; m/z found, 330.1 [M+H]+.

reactant | Ethyl pyrazole-4-carboxylate | 13.1 mmol, 1.83 g | N1N=CC(=C1)C(=O)OCC | C6H8N2O2
reactant | 2-chloro-6-nitro-3H-quinazolin-4-one | 13.1 mmol, 2.95 g | ClC1=NC2=CC=C(C=C2C(N1)=O)[N+](=O)[O-] | C8H4ClN3O3
product | 1-(6-nitro-4-oxo-3,4-dihydro-quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid ethyl ester | 4.22 g, 98% | C(C)OC(=O)C=1C=NN(C1)C1=NC2=CC=C(C=C2C(N1)=O)[N+](=O)[O-] | C14H11N5O5
